US08541457B2
Synthesis of N-Benzyl-4-methyl-2-{[4-(2-oxopyridin-1(2H)-yl)benzoyl]amino}-1,3-thiazole-5-carboxamide
Following the procedure as described in Example 11, making variations only as required to use 4-(2-oxopyridin-1-yl)-benzoic acid in place of 5-phenylpentanoic acid to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 58% yield; 1H NMR (CDCl3, 300 MHz) δ 12.96 (s, 1H), 8.63 (t, J=5.9 Hz, 1H), 8.18 (d, J=8.6 Hz, 2H), 7.66 (dd, J=1.7, 6.9 Hz, 1H), 7.57 (d, J=8.6 Hz, 2H), 7.50 (ddd, J=2.0, 6.8, 9.0 Hz, 1H), 7.35-7.20 (m, 5H), 6.48 (d, J=9.0 Hz, 1H), 6.32 (dt, J=1.1, 6.8 Hz, 1H), 4.38 (d, J=5.9 Hz, 2H), 2.52 (s, 3H); MS (ES+) m/z 445.4 (M+1).

reactant | 4-(2-oxopyridin-1-yl)-benzoic acid | O=C1N(C=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO3
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | N-Benzyl-4-methyl-2-{[4-(2-oxopyridin-1(2H)-yl)benzoyl]amino}-1,3-thiazole-5-carboxamide | 58% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=C(C=C1)N1C(C=CC=C1)=O)=O)C | C24H20N4O3S
